US06635655B1
6-[3-(tert-Butyl-diphenyl-silanyloxymethyl)-phenyl]-hexanoic Acid Methyl Ester
To a solution of 6-[3-(tert-butyl-diphenyl-silanyloxymethyl)-phenyl]-hexanoic acid (3.3 g, 7.2 mmol) in DMF (15 mL) is added potassium carbonate (1.09 g, 7.9 mmol) and iodomethane (500 μL, 7.9 mmol). The mixture is stirred for 6 hrs then diluted with ether. The organic layer is washed with water, brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 10% ether/hexanes) to give 2.42 g of title compound. 1H NMR (300 MHz, CDCl3) δ 7.70 (m, 4H), 7.38 (m, 6H), 7.20 (m, 2H), 7.12 (s, 1H), 7.06 (d, 1H), 4.76 (s, 2H), 3.65 (s, 3H), 2.59 (t, 2H), 2.30 (t, 2H), 1.64 (m, 4H), 1.37 (m, 2H), 1.10 (s, 9H).

reactant | 6-[3-(tert-butyl-diphenyl-silanyloxymethyl)-phenyl]-hexanoic acid | 7.2 mmol, 3.3 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)CCCCCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H36O3Si
reactant | potassium carbonate | 7.9 mmol, 1.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 7.9 mmol, 500 μL | IC | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 6-[3-(tert-Butyl-diphenyl-silanyloxymethyl)-phenyl]-hexanoic Acid Methyl Ester | 2.42 g | COC(CCCCCC1=CC(=CC=C1)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H38O3Si
